US07405221B2
2-(3,4-Difluorophenoxy)-4-methoxy-5-(4-trifluoromethylphenyl)-6-[2,4-dichlorophenyl]pyrimidine
This derivative was prepared by the method described in Example 132 using 2-(3,4-difluorophenoxy)-4-methoxy-5-trifluoromethansulfonyl-6-[2,4-dichlorophenyl]pyrimidine (60 mg, 0.11 mmol) as described in Reference Example 17 and 4-trifluoromethylbenzeneboronic acid (Lancaster, 24 mg, 0.13 mmol HPLC Rt=4.76 min. 1H-NMR 500 MHz (CDCl3): 4.13 (s, 3H), 6.55 (m, 1H), 6.68 (m, 1H), 7.07 (q, J=10 Hz, 1H), 7.28 (m, 3H), (7.50 m, 3H), 7.61 (d, J=10 Hz, 2H).

reactant | 2-(3,4-difluorophenoxy)-4-methoxy-5-trifluoromethansulfonyl-6-[2,4-dichlorophenyl]pyrimidine | 0.11 mmol, 60 mg | FC=1C=C(OC2=NC(=C(C(=N2)OC)S(=O)(=O)C(F)(F)F)C2=C(C=C(C=C2)Cl)Cl)C=CC1F | C18H9Cl2F5N2O4S
reactant | 4-trifluoromethylbenzeneboronic acid | FC(C1=CC=C(C=C1)B(O)O)(F)F | C7H6BF3O2
product | 2-(3,4-Difluorophenoxy)-4-methoxy-5-(4-trifluoromethylphenyl)-6-[2,4-dichlorophenyl]pyrimidine | FC=1C=C(OC2=NC(=C(C(=N2)OC)C2=CC=C(C=C2)C(F)(F)F)C2=C(C=C(C=C2)Cl)Cl)C=CC1F | C24H13Cl2F5N2O2
